US05214197
To a solution of 1-methyl 6-tert.-butyl 2,4-dihydroxyadipate (4.98 g, 20.01 mmol) in methylene chloride (2 dimethoxypropane (9.6 ml, 78 mmol) and pyridinium p-toluenesulfonate (2.01 g, 8 mmol) were added and stirred under reflux conditions for one hour, followed by further stirring at 40° C. for 3 hours while azeotropically removing methanol with methylene chloride. After concentration under reduced pressure, the residue was dissolved in ethyl acetate and poured in water. Then, the mixture was extracted with ethyl acetate. The organic layers were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=3:1) to give pure 2-methoxycarbonyl-4-tert.-butoxycarbonylmethyl-6,6-dimethyl-1,5-dioxane (4.89 g, 17.01 mmol). Yield, 85 %.

reactant | 1-methyl 6-tert.-butyl 2,4-dihydroxyadipate | 20.01 mmol, 4.98 g | OC(C(=O)OC)CC(CC(=O)OC(C)(C)C)O | C11H20O6
reactant | dimethoxypropane | 78 mmol, 9.6 ml | COC(C)(C)OC | C5H12O2
reactant | pyridinium p-toluenesulfonate | 8 mmol, 2.01 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methoxycarbonyl-4-tert.-butoxycarbonylmethyl-6,6-dimethyl-1,5-dioxane | 17.01 mmol, 4.89 g | COC(=O)C1OC(OC(C1)CC(=O)OC(C)(C)C)(C)C | C14H24O6
